US08609710B2
[Step 1] Ethyl 1-adamantan-2-yl-1H-imidazole-4-carboxylate
Ethyl 3-(dimethylamino)-2-isocyanoacrylate (0.50 g), 2-aminoadamantane (0.54 g), and n-butanol (2.5 mL) were added and stirred at 150° C. for 13 hours. To the reaction solution, water was added, and organic matter was extracted with ethyl acetate. The organic layer was concentrated and then purified by silica gel column chromatography (eluting solvent: methylene chloride-methylene chloride/methanol=95/5 and ethyl acetate) to obtain the title compound (0.24 g).

reactant | Ethyl 3-(dimethylamino)-2-isocyanoacrylate | 0.50 g | CN(C=C(C(=O)OCC)[N+]#[C-])C | C8H12N2O2
reactant | 2-aminoadamantane | 0.54 g | NC1C2CC3CC(CC1C3)C2 | C10H17N
reactant | n-butanol | 2.5 mL | C(CCC)O | C4H10O
solvent | water | O | H2O
product | Ethyl 1-adamantan-2-yl-1H-imidazole-4-carboxylate | 0.24 g | C12C(C3CC(CC(C1)C3)C2)N2C=NC(=C2)C(=O)OCC | C16H22N2O2
